US07268154B2
1.3 [1-(cis-4-Amino-cyclohexyl)-1H-[1,2,3]-triazol-4-yl]-pyrrolidin-1-yl-methanone hydrochloride
{cis-4-[4-(Pyrrolidine-1-carbonyl)-[1,2,3]triazol-1-yl]-cyclohexyl}-carbamic acid tert-butyl ester (406 mg) was stirred 1 h in a mixture of 4.6 M HCl in EtOAc (3.6 ml) and MeOH (0.84 ml). The solvent was evaporated to yield the product (335 mg, quant.) as white foam after drying on the high vacuum. MS 264.3 (100, [M+H]+).

reactant | {cis-4-[4-(Pyrrolidine-1-carbonyl)-[1,2,3]triazol-1-yl]-cyclohexyl}-carbamic acid tert-butyl ester | 406 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)N1N=NC(=C1)C(=O)N1CCCC1)=O | C18H29N5O3
reactant | HCl | 4.6 M | Cl | ClH
solvent | EtOAc | 3.6 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 0.84 ml | CO | CH4O
product | [1-(cis-4-Amino-cyclohexyl)-1H-[1,2,3]-triazol-4-yl]-pyrrolidin-1-yl-methanone hydrochloride | Cl.N[C@H]1CC[C@H](CC1)N1N=NC(=C1)C(=O)N1CCCC1 | InChI=1S/C13H21N5O.ClH/c14-10-3-5-11(6-4-10)18-9-12(15-16-18)13(19)17-7-1-2-8-17;/h9-11H,1-8,14H2;1H/t10-,11+;
